US08563566B2
N-(4-Bromo-2,6-dimethyl-phenyl)-3,3-dimethyl-butyramide (8)
3,3-dimethylbutanoyl chloride (3.37 g, 3.5 mL, 25 mmol) and triethylamine (2.53 g, 3.5 mL, 25 mmol) were added to a solution of 4-bromo-2-chloro-6-(trifluoromethyl)aniline (5.0 g, 25 mmol) in acetonitrile (30 mL). The reaction mixture was stirred at room temperature for 4 hours. Water was added to the mixture, and the precipitate formed collected to give the title compound as a powder (7.46 g, 100% yield).

reactant | 3,3-dimethylbutanoyl chloride | 25 mmol, 3.5 mL, 3.37 g | CC(CC(=O)Cl)(C)C | C6H11ClO
reactant | triethylamine | 25 mmol, 3.5 mL, 2.53 g | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-2-chloro-6-(trifluoromethyl)aniline | 25 mmol, 5.0 g | BrC1=CC(=C(N)C(=C1)C(F)(F)F)Cl | C7H4BrClF3N
reactant | Water | O | H2O
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | N-(4-Bromo-2,6-dimethyl-phenyl)-3,3-dimethyl-butyramide | 7.46 g, 100% yield | BrC1=CC(=C(C(=C1)C)NC(CC(C)(C)C)=O)C | C14H20BrNO
